Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Intracerebral Hemorrhage. 
 
Major Surgical or Invasive Procedure:
expired

 
History of Present Illness:
___ with history of CAD admitted to an OSH for acute CHF
exacerbation on ___. She was being worked up for hypertension
causes and was on BIPAP, Nitro gtt, and IV Lasix while in the
ICU. While on the floor she had AMS, only responding to painful
stimuli, but was moving all four extremities. She underwent head
CT at around 10:30 am today which showed a large ICH with
possible tumors. She was on aspirin and Plavix at the time.
Patient was intubated at the OSH and given mannitol to reduce
ICP. She was started on a labetalol drip prior to transfer. 

 
Past Medical History:
PMHx: CAD, acute on chronic systolic CHF, HTN, Pulm edema,
malnutrition 

PSHx: cataract surgery

 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:99.1  BP: 148/60  HR:67    R:21     100%  O2Sats on PSV .5,
peep 5 on 20 of propofol
Off propofol:
Gen: Intubated, sedated
HEENT: Pupils:2 mm reactive
Lungs: diminished bilaterally
Cardiac: RRR. 
Abd: Soft
Extrem: Warm and well-perfused.

Neuro:
Intubated
Pupils equally round and reactive to light, to
mm bilaterally. Impaired gag, corneal and cough reflex present.
Withdraws all extremities to noxious stimuli.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

PHYSICAL EXAMINATION ON DISCHARGE:
expired
 
Pertinent Results:
Head CT without Contrast: ___
1. Increase in size of left temporal intraparenchymal hemorrhage 
with the new blood products.  The hemorrhage also extends into 
the parietal and occipital lobes. 
2. Massive intraventricular hemorrhage with stable blood 
products in the left lateral, third, and fourth ventricle, and 
new hemorrhage in the right lateral ventricle.  The right 
lateral ventricle remains dilated secondary to entrapment. 
3. Stable mass effect, including 
left uncal herniation with effacement of 
bilateral perimesencephalic and peripontine cisterns. 

Radiology Report MR HEAD W & W/O CONTRAST Study Date of 
___ 4:51 ___ 

IMPRESSION:  
  
1. Large left temporal lobe hematoma with extensive 
intraventricular 
hemorrhage and hydrocephalus. Postcontrast imaging does not 
demonstrate 
evidence of underlying neoplasia. Scattered foci of gradient 
susceptibility in the brain may suggest amyloid angiography. 
2. Bilateral uncal herniation, left greater than right, and new 
foramen magnum herniation. 

 
Brief Hospital Course:
The patient was admitted to the neuroscience ICU with a 
intracerebral hemorrhage for close monitoring overnight. Her 
blood pressure was controlled and she was started on mannitol 
and hypertonic saline. 

On ___, the patient remained neurologically stable on 
examination. Her Na rose from 135-145 over night and the 3% 
Saline was discontinued in the AM and she was started on NS. 

On ___, The patient became hypotensive and was initiated on a 
vasopressor infusion. The patient exhibited a poor neurological 
exam. a MRI was planned, but put on hold bc of neuro changes. a 
MRI was performed and was consistent with large left temporal 
lobe hematoma with extensive intraventricular hemorrhage and 
hydrocephalus. Postcontrast imaging does not demonstrate 
evidence of underlying neoplasia. Scattered foci of gradient 
susceptibility in the brain may suggest amyloid angiography. 
Bilateral uncal herniation, left greater than right, and new 
foramen magnum herniation 
  
On ___, The patient's morning exam on rounds was very poor.  
The patient's pupils were 4mm NR. There was no cough/gag/ or 
corneals.  The patient had a GCS of 3T. Braindeath declared at 
1700 by the ICU attending. The family was at the bedside and 
awaiting clergy. The patient was terminally extubated and was 
asystolic
 
Medications on Admission:
pravastatin 10 daily,
multivitamin, Plavix 75 daily, acetaminophen prn, metoprolol 
12.5
mg PO BID, Lisinopril 10 mg daily, aspirin 81 mg daily

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Intracerebral Hemorrhage.

 
Discharge Condition:
expired
 
Discharge Instructions:
none- expired
 
Followup Instructions:
___